US05391494
A mixture of 10 g of enzyme lipase "Amano" CES (produced by Amano Pharmaceutical Co., Ltd), 60 g of (R,S)-1-tetrahydropyranyloxy-2-butanol and 117 g of tributyrin was reacted with stirring at 38° C. for ten days. After the reaction was stopped, the enzyme was removed by filtration, and the enzyme on the filter paper was washed by using n-heptane. n-Heptane was distilled away from the filtrate, the residue was purified with a chromatograph over silical gel, and 22.5 g of optically active 1-tetrahydropyranyloxy-2-butanol and 20.8 g of 1-tetrahydropyranyloxy-2-butyryloxybutane were obtained.

reactant | (R,S)-1-tetrahydropyranyloxy-2-butanol | 60 g | O1[C@H](CCCC1)OC[C@@H](CC)O | C9H18O3
reactant | tributyrin | 117 g | O=C(OCC(COC(CCC)=O)OC(CCC)=O)CCC | C15H26O6
product | 1-tetrahydropyranyloxy-2-butyryloxybutane | 20.8 g | O1C(CCCC1)OCC(CC)OC(CCC)=O | C13H24O4
